US04307234
N-[(1,3,4,9-Tetrahydro-1-methylpyrano[3,4-b]indol-1-yl)ethyl]-acetamide (IIa, R1 =H and R3, R4 and Alk=Me)
A mixture of indole-3-ethanol (16 lg), benzene (1200 ml), N-(1-methyl-2-oxopropyl)-acetamide[12.7 g, described by A. Triebs and W. Sutter, Chem. Ber. 84, 96(1951)] and boron trifluoride-etherate (5 drops) is refluxed using a water separating condenser for 60 minutes. After cooling, the mixture is washed with concentrated sodium bicarbonate, dried over magnesium sulfate and evaporated. The residue is chromatographed on silica gel using chloroform. The eluates are evaporated to give a residue of the title compound as a 1:1 mixture of diastereoisomers:

reactant | indole-3-ethanol | N1C=C(C2=CC=CC=C12)CCO | C10H11NO
reactant | N-(1-methyl-2-oxopropyl)-acetamide | CC(C(C)=O)NC(C)=O | C6H11NO2
reactant | benzene | 1200 ml | C1=CC=CC=C1 | C6H6
catalyst | boron trifluoride-etherate | 5 drops | B(F)(F)F.CCOCC
product | N-[(1,3,4,9-Tetrahydro-1-methylpyrano[3,4-b]indol-1-yl)ethyl]-acetamide | CC1(OCCC2=C1NC1=CC=CC=C21)CCNC(C)=O | C16H20N2O2
